US07186729B2
(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester
5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol (0.4 g, 0.814 mmol) was dissolved in dimethyl formamide (10 mL). Sodium hydride (0.029 g, 1.22 mmol, 1.5 equiv, 48 mg of a 60% suspension in mineral oil) was added at room temperature and gas evolution was visible. Methyl bromoacetate (0.187 g, 1.22 mmol, 116 uL) was added and the mixture was stirred at room temperature. After stirring overnight at room temperature, the reaction was quenched with water (10 mL). The resulting suspension was extracted with ethyl acetate (3×10 mL). The combined ethyl acetate extracts were dried over magnesium sulfate, filtered and concentrated in vacuo to give an oil. The crude oil was purified by silica gel chromatography (methylene chloride to 10% methanol in methylene chloride gradient) to afford the title compound as a white solid (222 mg, 48%).

reactant | 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | 0.814 mmol, 0.4 g | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O)(C)C)O | C29H31ClN2O3
reactant | Sodium hydride | [H-].[Na+]
reactant | Methyl bromoacetate | 1.22 mmol, 116 uL, 0.187 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | (5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-acetic acid methyl ester | 222 mg, 48% | COC(COC1=CC2=C(OCC3=C(C2=CCCN2CC(C(CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C=CC=N3)C=C1)=O | C32H35ClN2O5
